### PR TITLE
feat(CategoryTheory/Preadditive): category ring of preadditive category

### PR DESCRIPTION
**Pull request by ray-shang**
Given a preadditive category `C`, its category ring `CategoryRing C` is the non-unital ring
whose underlying additive group is the direct sum of all of its morphism groups `X ⟶ Y`, and
whose multiplication is induced by composition: the product of a morphism `f : X ⟶ Y` with a
morphism `g : Z ⟶ W` is `f ≫ g` when `Y = Z`, and `0` otherwise. When `C` is `R`-linear this ring
is a (non-unital) `R`-algebra, and when `C` has finitely many objects it is unital, with
unit `∑ X, 𝟙 X`.

This file formalizes `CategoryRing C` and its structure and universal property
when `C` is preadditive, `R`-linear, finite type, and both finite type and `R`-linear. For example,
when `C` is merely preadditive, the universal property of `CategoryRing C` is: non-unital ring
homomorphisms out of `CategoryRing C` correspond to `LiftData`, the data of a
compatible family of additive maps `(X ⟶ Y) →+ A` for a `NonUnitalNonAssocSemiring A`.

AI Usage: Gemini 3.1 Pro Extended Thinking is in use to generate proof terms for the custom induction principle to unwrap the nested direct sums of the category algebra. Human oversight and work determines the most efficient proof term. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Linear/CategoryAlgebra.lean [hunk 1]
```diff
@@ -0,0 +1,475 @@
...
+/-- The canonical inclusion of a morphism `f : a ⟶ b` into the category algebra. -/
+protected def of (x y : C) : (x ⟶ y) →ₗ[R] CategoryAlgebra R C :=
+    DirectSum.lof R (C × C) (fun x ↦ x.1 ⟶ x.2) (x, y)
+
+/-- Two additive homomorphisms out of the category algebra are equal if they agree on
+all canonical inclusions of morphisms. -/
+@[ext 10000]
+theorem addHom_ext {γ : Type w'} [AddZeroClass γ] {f g : CategoryAlgebra R C →+ γ}
+    (h : ∀ (x y : C) (f' : x ⟶ y), f (CategoryAlgebra.of x y f') = g (CategoryAlgebra.of x y f')) :
+    f = g := DFinsupp.addHom_ext (fun x => h x.1 x.2)
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Linear/CategoryAlgebra.lean]: I have the gut feeling that indexing by pairs is not a good idea here: the reason is that you want to avoid as much as possible propositional equality of objects when dealing with category theory in Lean, and the indexing by pairs runs into needing auxiliary constructions like `comp₀` that bakes in such equalities.

I think it’d be better using
```lean
abbrev CategoryAlgebra (R : Type w) (C : Type u) [CommSemiring R] [Category.{v} C] [Preadditive C]
    [Linear R C] := ⨁ (x : C), ⨁ (y : C), x ⟶ y

namespace CategoryAlgebra

variable {R : Type w} [CommSemiring R] {C : Type u} [Category.{v} C] [Preadditive C]
  [Linear R C] [DecidableEq C]

/-- The canonical inclusion of a morphism `f : a ⟶ b` into the category algebra. -/
protected def of (x y : C) : (x ⟶ y) →ₗ[R] CategoryAlgebra R C :=
  DirectSum.lof R C _ x ∘ₗ DirectSum.lof R _ _ y

/-- Two additive homomorphisms out of the category algebra are equal if they agree on
all canonical inclusions of morphisms. -/
@[ext high]
theorem addHom_ext {γ : Type w'} [AddZeroClass γ] {f g : CategoryAlgebra R C →+ γ}
    (h : ∀ (x y : C) (f' : x ⟶ y), f (.of x y f') = g (.of x y f')) :
    f = g := by
  apply DirectSum.addHom_ext
  intro x y
  induction y using DirectSum.induction_on with
  | zero => simp
  | of y q => exact h ..
  | add y y' hy hy' => simp_rw [map_add, hy, hy']

/-- The canonical inclusion `of a b f` is definitionally equal to the single entry
in the direct sum at index `(a, b)` with value `f`. -/
theorem of_eq_single (x y : C) (f : x ⟶ y) :
    (CategoryAlgebra.of x y f : CategoryAlgebra R C) =
    DirectSum.of _ x (DirectSum.of _ y f) :=
  rfl
```

Note that I have also changed some of the proofs: `DirectSum` is a `def`, so you should use `DirectSum`-related API instead of trying to see through it and use `DFinsupp`-language when dealing with direct sums.

Even with this, you need auxiliary constructions to define the composition, but hopefully none that has to explicitly do an if-then-else on equalities between source and targets.

**Review by robin-carlier — COMMENTED** [review]
I only went through the beginning so far, I’ll try digging more into it later.

As a general comment, I see many uses of the `change` tactic. This is a bit of a code smell, and a sign that you should introduce simp lemmas around your definitions to avoid these.

File: QuiverRepresentations.lean
Comment (robin-carlier) [inline QuiverRepresentations.lean:1]: This is a leftover that should be removed.

File: Mathlib/CategoryTheory/Linear/CategoryAlgebra.lean (hunk 1 above)
Comment (ray-shang) [reply Mathlib/CategoryTheory/Linear/CategoryAlgebra.lean]: Robin, thank you for your thoughtful comments and time! I have updated the PR to reflect your suggestions.

**Comment by ray-shang** [comment]
Thank you Robin for your valuable suggestions.

-awaiting-author

File: Mathlib/CategoryTheory/Linear/CategoryAlgebra.lean [hunk 2]
```diff
@@ -0,0 +1,471 @@
...
+
+open DirectSum
+open CategoryTheory.Preadditive
+
+/-- The category algebra constructed from a commutative semiring `R` and an `R`-linear category `C`.
+By using `abbrev`, the category algebra inherits all module properties directly from
+the underlying direct sum. -/
+@[nolint unusedArguments]
+abbrev CategoryAlgebra (R : Type w) (C : Type u) [CommSemiring R] [Category.{v} C] [Preadditive C]
+    [Linear R C] := ⨁ (x : C), ⨁ (y : C), x ⟶ y
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Linear/CategoryAlgebra.lean:73]: It seems that the ring structure does not depend on `R`. Would not it be better to not put `R` as a variable here, but still put suitable instances when `C` is `R`-linear?

Comment (ray-shang) [reply Mathlib/CategoryTheory/Linear/CategoryAlgebra.lean:73]: Thank you for your time and for bringing this up! Based on your feedback, I've posted a question on the zulip : [#Is there code for X? > Path algebra of a quiver](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/Path.20algebra.20of.20a.20quiver/with/497858148)

File: Mathlib/Data/DFinsupp/BigOperators.lean [hunk 3]
```diff
@@ -373,6 +373,19 @@ theorem sumAddHom_comm {ι₁ ι₂ : Sort _} {β₁ : ι₁ → Type*} {β₂ :
...
+    [AddCommMonoid γ] (h : ∀ i j, β₁ i →+ β₂ j →+ γ) : (Π₀ i, β₁ i) →+ (Π₀ j, β₂ j) →+ γ :=
+  sumAddHom (fun i₁ ↦ AddMonoidHom.flip (sumAddHom (fun i₂ ↦ (h i₁ i₂).flip)))
+
+@[simp]
+theorem sumAddHom₂_single {ι₁ ι₂ : Sort _} {β₁ : ι₁ → Type*} {β₂ : ι₂ → Type*} {γ : Type*}
+    [DecidableEq ι₁] [DecidableEq ι₂] [∀ i, AddZeroClass (β₁ i)] [∀ i, AddZeroClass (β₂ i)]
+    [AddCommMonoid γ] (h : ∀ i j, β₁ i →+ β₂ j →+ γ) (i₁ i₂) (x : β₁ i₁) (y : β₂ i₂) :
+    sumAddHom₂ h (single i₁ x) (single i₂ y) = h i₁ i₂ x y := by
+  simp [sumAddHom₂]
+
```
Comment (b-reinke) [inline Mathlib/Data/DFinsupp/BigOperators.lean:388]: I think you are not using these lemmas anymore, so I don't think you need to include them in this PR. You can then also remove them from the PR description.

Comment (ray-shang) [reply Mathlib/Data/DFinsupp/BigOperators.lean]: Thank you very much for flagging this!

**Comment by ray-shang** [comment]
-awaiting-author
